US07622469B2
6-Undecyl-2,4-diamino-1,6-dihydro-1-(2′,4′-difluorophenyl)-1,3,5-triazine hydrochloride
100 ml of ethanol, 6.6 ml (29.9 mmol) of 1-dodecanal and 0.9 ml of concentrated hydrochloric acid were added to 5.0 g (20.0 mmol) of N1-(2,4-difluorophenyl)-biguanide hydrochloride, and the mixture was refluxed for 20 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (elution with a mixture of chloroform and methanol (9:1.5)), and recrystallized from 70% aqueous acetonitrile to obtain 3.9 g of colorless crystals having a melting point of 206 to 208° C.

reactant | 1-dodecanal | 29.9 mmol, 6.6 ml | C(CCCCCCCCCCC)=O | C12H24O
reactant | hydrochloric acid | 0.9 ml | Cl | ClH
reactant | N1-(2,4-difluorophenyl)-biguanide hydrochloride | 20.0 mmol, 5.0 g | Cl.FC1=C(C=CC(=C1)F)NC(=N)NC(=N)N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-Undecyl-2,4-diamino-1,6-dihydro-1-(2′,4′-difluorophenyl)-1,3,5-triazine hydrochloride | 3.9 g | Cl.C(CCCCCCCCCC)C1N=C(N=C(N1C1=C(C=C(C=C1)F)F)N)N | InChI=1S/C20H31F2N5.ClH/c1-2-3-4-5-6-7-8-9-10-11-18-25-19(23)26-20(24)27(18)17-13-12-15(21)14-16(17)22;/h12-14,18H,2-11H2,1H3,(H4,23,24,25,26);1H
